US05098920
Step 3: Preparation of methyl 4'-[(3,5-dibutyl-1H-1,2,4-triazol-1-yl)methyl][1,1'-biphenyl]-2-carboxylate
Under a static nitrogen atmosphere, 2.01 g (11.0 mmol) of solid 3,5-dibutyl-1H-1,2,4-triazole was added in small portions to 12 mmol of sodium hydride in 50 ml of dimethylformamide (DMF); stirring was continued until hydrogen evolution had ceased. The anion solution was cooled to -10° C. (ice/methanol) and treated with a solution of 3.37 g (11.0 mmol) of 4-bromomethyl-2'-methoxycarbonylbiphenyl in 20 ml of dry DMF. The reaction was allowed to warm to ambient temperature and stir overnight. Methanol (10 ml) was added to destroy any unreacted sodium hydride and the DMF was removed in vacuo. The residue was dissolved in ethyl acetate, washed with water, and dried (MgSO4). Silica gel chromatography (Waters Prep-500A) using 40% ethyl acetate/hexane gave 2.0 g (41%) of compound as an oil: NMR (CDCl3) δ 0.90 (t, J=7 HZ, 3H), 0.94 (t, J=7 Hz, 3H), 1.28-1.47 (m, 4H), 1.62-1.80 (m, 4H), 2.63-2.75 (m, 4H), 3.63 (s, 3H), 5.27 (s, 2H), 7.13-7.18 (m, 2H), 7.25-7.35 (m, 3H), 7.37-7.44 (m, 1H), 7.48-7.55 (m, 1H), 7.80-7.85 (m, 1H).

reactant | 3,5-dibutyl-1H-1,2,4-triazole | C(CCC)C1=NNC(=N1)CCCC | C10H19N3
reactant | sodium hydride | 12 mmol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-bromomethyl-2'-methoxycarbonylbiphenyl | 11.0 mmol, 3.37 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C15H13BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | Methanol | 10 ml | CO | CH4O
product | methyl 4'-[(3,5-dibutyl-1H-1,2,4-triazol-1-yl)methyl][1,1'-biphenyl]-2-carboxylate | 2.0 g, 41% | C(CCC)C1=NN(C(=N1)CCCC)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C25H31N3O2
